US07105507B2
1,2,3,6-Tetrahydro-1-(phenylmethyl)-4-pyridineethanol
Benzyl bromide (4.4 mL, 41 mmol) was added to a solution of 4-pyridineethanol (5 g, 41 mmol) in acetone (100 mL) and the mixture was heated under reflux for 16 hours. The mixture was cooled and the solid was collected, washed with acetone (50 mL) and diethyl ether (2×50 mL) then dissolved in methanol (100 mL) and treated with sodium borohydride (6.2 g 164 mmol). The mixture was heated under reflux for 16 hours, cooled, and the solvent was evaporated under reduced pressure. Ethyl acetate (200 mL) and aqueous sodium hydrogen carbonate (10%, 150 mL) were added and the layers were separated. The aqueous layer was extracted with ethyl acetate (2×100 mL), the combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with CH2Cl2/MeOH/NH3(Aq.) (92:8:1), to give the title compound as a colorless oil (1.65 g, 18%). m/z (ES+) 218 (M+1).

reactant | Benzyl bromide | 41 mmol, 4.4 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-pyridineethanol | 41 mmol, 5 g | N1=CC=C(C=C1)CCO | C7H9NO
reactant | sodium borohydride | 164 mmol, 6.2 g | [BH4-].[Na+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 1,2,3,6-Tetrahydro-1-(phenylmethyl)-4-pyridineethanol | 1.65 g, 18% | C1(=CC=CC=C1)CN1CCC(=CC1)CCO | C14H19NO
